Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with history of hemorrhoids and iron deficiency anemia
transferring from ___ after presenting ___ with one
day history of bloody bowel movements.  One day prior to
admission, the patient was in his normal state of health, 
however
his AM BM consisted of stool mixed with red blood.  ___ however
felt well and subsequently went to workout at his gym without
issue.  Throughout the day, ___ had additional bloody bowel
movements that ___ describes as liquidy/watery, for a total of 6
episodes.  

On the date of admission to ___ woke up with no
symptoms, however when ___ was at the gym ___ felt lightheaded.  
___
called his PCP and went for an urgent appointment, at which a
stat CBC demonstrated a hematocrit of 35.5, a drop from his
baseline of 45.  His PCP directed him to the ___ for
further management.  Throughout these episodes ___ denies
experiencing abdominal pain, rectal pain, N/V, fever, SOB, CP, 
or
chills.  

___ PHYSICAL EXAM ON ADMISSION
VS: T 98.3, HR 63, RR 18, BP 152/85, O2 100% RA
Gen - no distress, resting in bed, appears comfortable
HEENT - nc/at, moist oral mucosa, no OP lesions or exudates,
external nares/pinnae intact
Eyes - left pupil round and reactive to light. right eye non
reactive
Neck - supple, no LAD, no JVD
___ - rrr, s1/2, no m/r/g
Lungs - cta b/l, no w/r/r
Abd - soft, NT, ND, +BS
Ext - no c/c/e
Skin - warm, dry, no rashes or lesions
Psych - calm, appropriate 
Neuro - motor ___ all extremities 
Rectal - deferred

___ PHYSICAL EXAM ON DISCHARGE
VS: 97.5F, 61, 119/89, 18, 100% on RA
Gen - no distress, resting in bed, appears comfortable, not
tachycardic
HEENT - nc/at, moist oral mucosa, no OP lesions or exudates,
external nares/pinnae intact
Eyes - left pupil round and reactive to light. right eye non
reactive
Neck - supple, no LAD, no JVD
___ - rrr, s1/2, no m/r/g
Pulm  - cta b/l, no w/r/r
GI - soft, NT, ND, +BS
Ext - no c/c/e
Skin - warm, dry, no rashes or lesions
Psych - calm, appropriate 
Neuro - motor ___ all extremities 
Rectal - deferred

PCP ___
___ 0724 WBC 8.3, HGB 12.1, HCT: 35.5, PLT: 194

___
___ 0640 WBC: 7.4, HGB: 10.1, HCT: 30.4, PLT: 164
___ 1353 WBC: 5.5, HGB: 8.4, HCT: 25.3, PLT: 149
   
___ IMAGING/PROCEDURES
___ CTA A/P W/WO Contrast
Small bowel loops demonstrate normal caliber, wall thickness  
and
enhancement throughout.  Intravenous contrast material is  seen
extravasating into the distal sigmoid colon/rectum consistent
with a lower GI bleed.  However this contrast is not well seen 
on
the portal venous phase images likely due to dilution in the
colon.  A few  diverticuli are present and the distal
descending/proximal sigmoid  colon without evidence of
diverticulitis.  The appendix contains air, has normal caliber
without evidence of fat stranding.  There  is  no  evidence  of 
mesenteric  lymphadenopathy.

___ EGD
Visualized segments are entirely normal.  There was clear 
bilious
fluid in the stomach and duodenum.  No abnormalities are seen. 
The ampulla is well seen and normal.  Normal gastroscopy. 
Suspect diverticular bleeding as previously described.

___ TREATMENT COURSE
While at ___ remained hemodynamically stable.  His
initial workup demonstrated negative troponins, positive FOBT,
and a decrease of hemoglobin from 12.1 to 10.1. ___ received an
EGD, which demonstrated no acute findings concerning for 
bleeding
etiology.  His followup CTA demonstrated extravasation from the
wall of the rectum and sigmoid colon.  Over 48 hours from 
symptom
onset, his hemoglobin dropped from 12.1 to 8.4.  ___ was
transfused 2 units PRBCs, had his home aspirin held, and was
started on an IV protonix drip at 40 mg IV BID.  ___ was accepted
for transfer to ___ for evaluation by Interventional Radiology
for embolization.  Prior to discharge ___ continued to have BM
with clots and frank blood, with 4 episodes throughout the day
prior to admission to ___.  ___ was hemodynamically stable
without tachycardia.  
 
Upon arrival to the floor, the patient reports that ___ is 
feeling
well.  ___ had just had a BM with bright red blood within the
toilet bowl.  ___ flushed the contents after the BM.  ___ 
currently
is not experiencing any pain, dizziness, SOB, CP, palpitation, 
or
abdominal pain.  ___ denies bloody anal leakage.
 
REVIEW OF SYSTEMS:  
10 point ROS as above, otherwise negative.

 
Past Medical History:
Hemorrhoids
HLD 
IRON DEFICIENCY ANEMIA
ASTHMAS
RIGHT EYE BLINDNESS
ELEVATED PSA
HAND SURGERY AFTER CRUSH INJURY

 
Social History:
___
Family History:
Father - expired at age ___, Parkinsons, diabetes
Mother - alive at ___, heart condition
 
Physical Exam:
VITALS: 97.4F, 60, 150/78, 18, 98% on RA.
GENERAL: Young appearing elderly man, sitting upright in NAD.
EYES: Anisocoric, L. eye reactive to light, R. eye dilated with
no response to light.  EOMI intact.
ENT: Neck supple, oropharynx non-erythematous, MMM
CV: RRR, no m/g/r
RESP: CTAB in anterior and posterior fields with no w/c/r
GI: Abdomen soft, non-tender, non-distended, no rebound or
guarding.  Internal hemorrhoids on rectal exam with frank red
blood in the rectal vault.
MSK: Moving all four extremities spontaneously, ___ strength ___
___. 
NEURO: AAOx3

 
Pertinent Results:
SIGNIFICANT ___
=================
___ 07:25AM BLOOD WBC-7.3 RBC-2.90* Hgb-8.7* Hct-25.7* 
MCV-89 MCH-30.0 MCHC-33.9 RDW-12.7 RDWSD-40.8 Plt ___
___ 12:00AM BLOOD WBC-6.8 RBC-2.81* Hgb-8.6* Hct-24.8* 
MCV-88 MCH-30.6 MCHC-34.7 RDW-12.6 RDWSD-40.6 Plt ___
___ 12:00AM BLOOD ___ PTT-29.4 ___
___ 12:00AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-28.3 ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD Glucose-98 UreaN-5* Creat-0.8 Na-144 
K-3.8 Cl-111* HCO3-24 AnGap-9
___ 12:00AM BLOOD Glucose-91 UreaN-6 Creat-0.8 Na-141 K-3.5 
Cl-108 HCO3-23 AnGap-10
___ 12:00AM BLOOD Calcium-7.9* Phos-3.1 Mg-2.1
___ 07:25AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.1

IMAGING: 
========
None

MICRO:
======
None
 
Brief Hospital Course:
___ M with history of hemorrhoids and iron deficiency anemia who 
was transferred from ___ after presenting ___ with a 
one day history of bloody bowel movements. At the OSH, ___ 
underwent EGD and colonoscopy, the latter of which was notable 
for extensive diverticulosis and some old blood predominantly at 
the sigmoid colon, but no active sites of bleeding that were 
amendable to intervention. The patient was subsequently 
transferred to ___ for ___ evaluation for possible 
embolization. However, ___ intervention was deferred in the 
setting of resolution of significant bleeding as they felt there 
would be a high likelihood of negative CTA and angiography in 
the absence of active bleeding. The patient remained 
hemodynamically stable prior to discharge without significant 
recurrence of BRBPR. His Hg remained stable at 8.7 from 8.6 at 
the time of admission. ___ was instructed to arrange close follow 
up with his PCP and counseled on the warning signs that would 
prompt return to the hospital.

#GI Bleed: 
The patient was transferred from OSH for ___ evaluation. While 
admitted at the OSH, ___ had an EGD, colonoscopy, and CVA. EGD 
and colonoscopy revealed no active bleeding, but diverticula 
were seen, and CVA was concerning for extravasation from rectal 
and sigmoid colon walls. The patient received 2 units of blood 
at the outside hospital with appropriate response prior to 
transfer. Upon arrival, ___ felt well and had not had a bloody 
bowel movement since the prior evening. ___ was seen by ___ who 
suggested a repeat CTA if the patient's Hgb/Hct were unstable. 
Hgb/Hct remained stable the night of admission and the following 
morning (8.6/24.8 to 8.7/25.7). ___ had one very small bloody 
bowel movement with dark red blood, most consistent with clot. 
It was determined that ___ was no longer bleeding from his 
presumed diverticular bleed and that ___ did not require ___ 
embolization. ___ was discharged on admission day 1 with close 
PCP follow ___ was instructed to hold his home aspirin until 
seeing his PCP. Patient was advised to call his PCP if ___ had a 
repeat bleed and was advised to maintain a high fiber diet. 

CHRONIC/STABLE PROBLEMS:
#HLD: Continued home simvastatin 20 mg QPM. 

#Seasonal Allergies: Continued home Claritin, Flonase. 

#Asthma: Continued fluticasone propionate 220 mcg inhaled Daily. 


TRANSITIONAL ISSUES: 
===================
-New meds: none. 
-Held Meds: aspirin.
-Encouraged patient to start fiber supplementation given known 
extensive diverticulosis. 
-Recommend repeat CBC at next PCP ___. 
-Consider GI referral for consideration of capsule endoscopy. 
#Surrogate/emergency contact: HCP: ___ (Wife) 
___ 
- Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Flovent HFA (fluticasone) 220 mcg/actuation inhalation DAILY 
3. Aspirin 81 mg PO DAILY 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
5. Loratadine 10 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation DAILY 
 
2.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
3.  Loratadine 10 mg PO DAILY  
4.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
5.  Simvastatin 20 mg PO QPM  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you see your primary care doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleed 
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege to care for you at the ___ 
___. You were transferred to our hospital from 
___ for further evaluation of your blood bowel movements. 
You were evaluated by the interventional radiologists for 
consideration of a possible procedure. This was not performed 
because your bleeding had stopped and your ___ were stable. 

After you are discharged, it is very important that you arrange 
a follow up appointment with your primary care doctor by calling 
the number listed below. If you develop recurrent large blood 
bowel movements or have symptoms of dizziness, chest pain, 
shortness of breath, or abdominal pain, then please go to the 
nearest emergency room immediately. Also, please avoid engaging 
in strenuous activity until you are seen by your primary care 
doctor. Please also discuss starting a fiber supplement to 
reduce risk of future bleeding. 

We wish you the best,

Your ___ Care Team 
 
Followup Instructions:
___